US06994941B2
Into a 2 liter three-necked reaction vessel fitted with an air-cooling tube and a mechanical stirrer, 48.3 g (0.1 mol) of N4,N4′-bis(2,4-dimethylphenyl)-N4-p-tolylbiphenyl-4,4′-diamine, 39.5 g (0.11 mol) of 4′-bromo-4-iodobiphenyl, 20 g of copper powder and 200 mL of o-dichlorobenzene were introduced and heated for 12 hours in an oil bath. After the reaction was completed, the reaction mixture was left to cool to room temperature, followed by removing solid matter by filtration, and thereafter extraction with toluene/water. Then, the solvent was distilled away from the organic layer under reduced pressure, followed by purification with a silica gel column (developer solvent: hexane/toluene=2:1) to give the desired N4′-(4′-bromobiphenyl-4-yl)-N4,N4′-bis(2,4-dimethylphenyl)-N4-p-tolylbiphenyl-4,4′-diamine. The compound obtained was in a yield of 45.0 g corresponding to 63%. The compound obtained was measured with the same elementary analyzer as the above.

reactant | N4,N4′-bis(2,4-dimethylphenyl)-N4-p-tolylbiphenyl-4,4′-diamine | 0.1 mol, 48.3 g | CC1=C(C=CC(=C1)C)N(C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=C(C=C(C=C1)C)C)C1=CC=C(C=C1)C | C35H34N2
reactant | 4′-bromo-4-iodobiphenyl | 0.11 mol, 39.5 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8BrI
catalyst | copper | 20 g | [Cu] | Cu
solvent | o-dichlorobenzene | 200 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N4′-(4′-bromobiphenyl-4-yl)-N4,N4′-bis(2,4-dimethylphenyl)-N4-p-tolylbiphenyl-4,4′-diamine | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C47H41BrN2
